US07135482B2
1-(2,4-Difluorobenzyl)-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
The title compound was prepared by coupling of 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid and O-methyl hydroxylamine hydrochloride in analogy to step (c) of example 1. 1H NMR (CD3OD) δ; 8.80 (s, 1H), 8.33 (s, 1H), 7.64 (d, 1H, J=3.0 Hz), 7.24–7.27 (m, 1H), 6.96–7.08 (m, 2H), 6.74 (d, 1H, J=3.0 Hz), 5.62 (s, 2H) 3.85 (s, 3H). LCMS (API-ES, M+H+): 318.0. HRMS calcd for C16H14F2N3O2. (M+H) 318.1054. found 318.1045. Anal. (C16H13F2N3O2) C, H, N. HPLC: 99.6% purity.

reactant | 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)O)C=CC(=C1)F | C15H10F2N2O2
reactant | O-methyl hydroxylamine hydrochloride | Cl.CON
product | 1-(2,4-Difluorobenzyl)-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)NOC)C=CC(=C1)F | C16H13F2N3O2
